US06967216B2
1-{2-[N-Methyl-N-(t-butoxycarbonyl)amino]ethyl}-1,2,4-triazole
To a cooled solution (ice bath) of 2-[N-methyl-N-(t-butoxycarbonyl)amino]ethanol (J. Med. Chem., 1999, 42(11), 2007-2020; 5 g, 28 mmol), triphenyl phosphine (9.35 g, 36 mmol) and 1,2,4-triazole (1.64 g, 24 mmol) in DCM (30 ml) was added diethylazodicarboxylate (5.64 ml, 35.7 mmol) dropwise. The ice bath was removed and the reaction mixture allowed to stir at room temperature for 1 hour. The precipitate was discarded and the filtrate was concentrated and purified by flash chromatography, eluting with a 50% EtOAc/DCM and then 100% EtOAc to give a pale yellow oil which was used without further purification.

reactant | 2-[N-methyl-N-(t-butoxycarbonyl)amino]ethanol | 28 mmol, 5 g | CN(C(=O)OC(C)(C)C)CCO | C8H17NO3
reactant | triphenyl phosphine | 36 mmol, 9.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,2,4-triazole | 24 mmol, 1.64 g | N1N=CN=C1 | C2H3N3
reactant | diethylazodicarboxylate | 35.7 mmol, 5.64 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-{2-[N-Methyl-N-(t-butoxycarbonyl)amino]ethyl}-1,2,4-triazole | CN(C(=O)OC(C)(C)C)CCN1N=CN=C1 | C10H18N4O2
